US08076488B2
Preparation of 4-(4-Amino-2-methoxyphenoxy)pyridine-2-carbonitrile
The title compound was prepared in the same manner described for 4-(4-aminophenoxy)pyridine-2-carboxylic acid methylamide, substituting 4-amino-2-methoxyphenol for 4-aminophenol, and 4-chloro-2-cyanopyridine for 4-chloropyridine-2-carboxylic acid methylamide. 1H-NMR (DMSO-d6) δ 8.50 (d, J=6.0 Hz, 1H), 7.49 (d, J=2.7 Hz, 1H), 7.00 (dd, J=5.7, 2.4 Hz, 1H), 6.82 (d, J=8.4 Hz, 1H), 6.37 (d, J=2.4 Hz, 1H), 6.16 (dd, J=8.7, 2.7 Hz, 1H), 5.25 (s, 2H), 3.62 (s, 3H); MS LC-MS (M+H)+=242.1.

reactant | 4-(4-aminophenoxy)pyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)N | C13H13N3O2
reactant | 4-aminophenol | NC1=CC=C(C=C1)O | C6H7NO
reactant | 4-chloro-2-cyanopyridine | ClC1=CC(=NC=C1)C#N | C6H3ClN2
reactant | 4-chloropyridine-2-carboxylic acid methylamide | CNC(=O)C1=NC=CC(=C1)Cl | C7H7ClN2O
product | 4-(4-Amino-2-methoxyphenoxy)pyridine-2-carbonitrile | NC1=CC(=C(OC2=CC(=NC=C2)C#N)C=C1)OC | C13H11N3O2
